US07790756B2
Using a procedure analogous to Example A2, 2-fluoro-4-aminophenol (2.6 g, 24 mmol) and 2,4-dichloropyridine (2.88 g, 20 mol) were combined to provide 4-(2-chloropyridin-4-yloxy)-3-fluoro-phenylamine (3.2 g, 67% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.25 (d, J=5.6 Hz, 1H), 6.99 (m, 1H), 6.90 (m, 2H), 6.50 (d, J=1.6 Hz, 1H), 6.41 (d, J=10.4 Hz, 1H), 5.51 (s, 2H); MS (ESI) m/z: 239.1 (M+H+).

reactant | 2-fluoro-4-aminophenol | 24 mmol, 2.6 g | FC1=C(C=CC(=C1)N)O | C6H6FNO
reactant | 2,4-dichloropyridine | 20 mol, 2.88 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
product | 4-(2-chloropyridin-4-yloxy)-3-fluoro-phenylamine | 3.2 g, 67% yield | ClC1=NC=CC(=C1)OC1=C(C=C(C=C1)N)F | C11H8ClFN2O
